US04262004
A mixture of 10 parts of 7-ethoxy-2,3-dihydroimidazo[2,1-b]benzothiazole and 150 parts of hydrobromic acid solution 48% in glacial acetic acid is stirred and refluxed overnight. The reaction mixture is evaporated. The solid residue is washed with ethanol and crystallized from ethanol 80%. The product is filtered off and dried, yielding 8 parts of 2,3-dihydroimidazo[2,1-b]benzothiazol-7-ol monohydrobromide; mp. 259.9° C.

reactant | 7-ethoxy-2,3-dihydroimidazo[2,1-b]benzothiazole | C(C)OC1=CC2=C(N3C(S2)=NCC3)C=C1 | C11H12N2OS
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,3-dihydroimidazo[2,1-b]benzothiazol-7-ol monohydrobromide | Br.N=1CCN2C1SC1=C2C=CC(=C1)O | InChI=1S/C9H8N2OS.BrH/c12-6-1-2-7-8(5-6)13-9-10-3-4-11(7)9;/h1-2,5,12H,3-4H2;1H
